US07951824B2
Step 1: 6-Methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide
To a solution of 610 mg of 4-Bromo-6-methyl-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide in 20 ml of dioxane were added 576 mg of potassium acetate and 68.5 mg of Dichloro-bis(triphenylphosphine)palladium. After stirring for 5 min under an Argon atmosphere, 596 mg of Bis(pinacolato)diboron were added and the reaction was stirred for 36 h at 101° C. The mixture was allowed to cool to room temperature, extracted with ethyl acetate/water, and dried over magnesium sulfate. After concentration, the crude orange solid was dissolved in a minimal amount of methylene chloride to which diisopropyl ether was added and allowed to crystallize at 0° C. One obtains 413 mg of the title compound as a light yellow solid, MS (ISP): m/e=360.2 (M+H)+.

reactant | 4-Bromo-6-methyl-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide | 610 mg | CC=1N=C(SC1)NC(=O)C1=NC(=CC(=C1)Br)C | C11H10BrN3OS
reactant | potassium acetate | 576 mg | C(C)(=O)[O-].[K+]
reactant | Bis(pinacolato)diboron | 596 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 6-Methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide | 413 mg | CC=1N=C(SC1)NC(=O)C1=NC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C | C17H22BN3O3S
